Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Gi bleeding, Abdominal Pain
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ with history of fatty liver and DM who presents as referral
from GI Dr. ___ constellation of symptoms.

Patient reports he has had nightly fevers measured with
thermometer, ranging 99.5-101, for which he has had to take
ibuprofen 200 mg which resolves the fever.  Sometimes has some
sweating as well.

Also reports headaches, dull and occurs most days, sometimes at
night it radiates to back of head.  Goes away with sleep.

2 months of diarrhea as well.  About ___ times/day, mostly 
"air",
sometimes flecks of blood.

Reports fleck of flashing light in vision.

GI Dr. ___ that ESR was 92 ___ and CRP 11.  
Referred
to ED for admission for further workup.

 
Past Medical History:
HLD
DM, A1C 7.0 ___
Fatty liver with chronically elevated ALT
 
Social History:
___
Family History:
Mom- ___, IBS
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS: 98.1 122/85 72 18 96 RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes
RECTAL: no external lesions, no stool or blood upon insertion of
finger, no masses felt 

DISCHARGE PHYSICAL EXAM
VS: 98.1°F, 71, 111/72, 16, 96% on room air.
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, cranial
nerves II through XII grossly intact.
SKIN: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS

___ 05:00PM BLOOD WBC-6.1 RBC-5.04 Hgb-14.5 Hct-44.2 MCV-88 
MCH-28.8 MCHC-32.8 RDW-13.3 RDWSD-42.5 Plt ___
___ 05:00PM BLOOD Glucose-142* UreaN-13 Creat-0.9 Na-143 
K-4.1 Cl-102 HCO3-29 AnGap-12
___ 05:00PM BLOOD ALT-46* AST-24 AlkPhos-124 TotBili-0.5
___ 05:00PM BLOOD CRP-11.4*
___ 11:25AM BLOOD HIV Ab-NEG
___ 05:12PM BLOOD Lactate-1.3
___ 08:17PM BLOOD SED RATE 87

PERTINENT RESULTS
     
___ 01:35PM BLOOD SED RATE-94
___ Rapid strep negative

OVA + PARASITES (Final ___: 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      FEW POLYMORPHONUCLEAR LEUKOCYTES. 
      BLASTOCYSTIS HOMINIS.    MODERATE.  CLINICAL SIGNIFICANCE 
UNCERTAIN. 

___ Stool Acid Fast ___

DISCHARGE LABS
___ 05:30AM BLOOD WBC-6.8 RBC-4.69 Hgb-13.1* Hct-40.4 
MCV-86 MCH-27.9 MCHC-32.4 RDW-13.1 RDWSD-40.8 Plt ___
___ 05:30AM BLOOD Glucose-166* UreaN-12 Creat-0.9 Na-139 
K-4.2 Cl-100 HCO3-26 AnGap-13
___ 05:30AM BLOOD ALT-37 AST-22 LD(LDH)-129 AlkPhos-108 
TotBili-0.___ with history of DM, fatty liver presents with reported 
fevers and diarrhea without fevers while hospitalized, with 
improving blood-streaked diarrhea.

ACUTE
#FEVERS/Elevated ESR
His experience in fevers prior to coming to the hospital. He 
noted between 99 to low 100s. While hospitalized, he was 
afebrile (maximum temperature 99.2°F). It was felt that the 
elevated ESR and subjective fevers were thought to be secondary 
to proctitis of noninfectious etiology. He was worked up for 
infectious etiologies. At time of discharge, streptococcal 
throat antigen and gonorrhea rectal swab were negative. Ova and 
parasites which is pending. Of note chlamydia rectal swab 
testing was not performed due to sample submission error, but 
patient had been negative at recent visit to PCP at ___.

#DIARRHEA
Prior to admission patient was having episodes of diarrhea that 
was streaked with blood. He was noted to have multiple diarrheal 
episodes while hospitalized. Gastroenterology was consulted and 
reviewed his imaging and current clinical status. They felt his 
current clinical presentation was consistent with proctitis and 
inability to hold fecal matter long enough for stool formation. 
Blood streaking secondary to inflamed rectal mucosa.

#HEADACHES WITH VISUAL CHANGES
Presentation patient was noted to have migrainous headaches that 
were bilateral and throbbing in nature that were associated with 
visual changes consisting of multiple flashing lights. 
Ophthalmology evaluated and demonstrated no signs that are 
concerning for retinal detachment, uveitis, or retinal 
vasculitides, or other acute processes.

#PENILE ULCERS
On admission patient was noted to have multiple penile ulcers 
consistent with genital herpes. He has had genital herpes in the 
past and was started on valacyclovir at an elevated dose for 
total ___LEVATED BLOOD SUGARS
Patient was admitted after recent diagnosis of elevated blood 
sugars concerning for diabetes. His fasting blood sugar glucose 
was monitored in the hospital, with one reading elevated above 
200 after his lunchtime meal on day of discharge. He was not 
given any insulin. He was to follow up with his PCP ___ ___ for 
further management of his elevated blood sugars including 
possible initiation of metformin.

TRANSITIONAL
- Hydrocortisone suppository QHS x 7 days, D1 ___.
- PCP ___ ___ at 3:30 ___.
- Eye appointment Dr. ___ ___ at 2:30 ___.
- ID follow up appointment Dr. ___ ___ at 10 AM.

Contact: ___ (father): ___
FULL CODE
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 200 mg PO DAILY:PRN fever 
2. Multivitamins 1 TAB PO DAILY 
3. ALPRAZolam 0.25 mg PO DAILY:PRN anxiety 

 
Discharge Medications:
1.  Hydrocortisone Acetate Suppository 1 SUPP PR QHS 
RX *hydrocortisone acetate 25 mg 1 suppository(s) rectally at 
bedtime Disp #*12 Suppository Refills:*0 
2.  ALPRAZolam 0.25 mg PO DAILY:PRN anxiety  
3.  Ibuprofen 200 mg PO DAILY:PRN fever  
4.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
Proctitis

Secondary Diagnosis
Migraine Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHAT BROUGHT YOU INTO THE HOSPITAL?
- You were admitted for your symptoms of fever, diarrhea, and 
high lab value called and erythrocyte sedimentation rate (ESR).

WHAT WAS DONE FOR YOU WHILE IN THE HOSPITAL?
- Your stool was evaluated for signs of infection, which were 
negative.
- Your rectal inflammation was treated with steroid 
suppositories.
- Your eyes were monitored as you were seeing flashing lights.

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- It is important you continue using the steroid suppositories 
each night at bedtime.
- You need to follow up with your PCP ___ on ___ at 
3:30 ___.
- You need to follow up with the Infectious Disease specialist 
Dr. ___ on ___ at 10 AM.
- You have a follow up appointment with the eye doctor ___ 
at 2:30 ___ at ___ in the ___ Building on the 
___.

It was a pleasure taking care of you!
-Your Team at ___
 
Followup Instructions:
___